US07060827B2
2,4-Dichloro-5-fluoropyrimidine (4.7 g, 28.1 mmol) was dissolved in a mixture of MeOH (150 ml) and H2O (15 ml). 3-nitroaniline (15.5 g, 112 mmol) was added and the mixture was refluxed for 20 hours (100° C. oil-bath temperature). The mixture was cooled to 22° C. and filtered. The residue was washed carefully with 200 ml MeOH—H2O (1:1; v/v) and dried under vacuum to give 7.89 g (76%) of N2,N4-bis(3-nitrophenyl)-5-fluoro-2,4-pyrimidinediamine as yellow crystals. 1H NMR (DMSO-d6+D2O): δ 8.63 (m, 2H), 8.21 (m, 1H), 8.08 (d, 1H, J=8.41 Hz), 7.88 (d, 1H, J=8.4 Hz), 7.79 (d, 1H, J=8.4 Hz), 7.70 (d, 1H, J=8.4 Hz), 7.57 (d, 1H, J=8.4 Hz), 7.45 (t, 1H, J=8.4 Hz); LCMS: purity: 100%; MS (m/e): 371.30 (M+, 100).

reactant | 2,4-Dichloro-5-fluoropyrimidine | 28.1 mmol, 4.7 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-nitroaniline | 112 mmol, 15.5 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
solvent | MeOH | 150 ml | CO | CH4O
solvent | H2O | 15 ml | O | H2O
product | N2,N4-bis(3-nitrophenyl)-5-fluoro-2,4-pyrimidinediamine | 7.89 g, 76% | [N+](=O)([O-])C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)[N+](=O)[O-])F | C16H11FN6O4
